US05849735
N-[5-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]-2-pyridinyl][1,1'-biphenyl]-2-carboxamide
To a chilled (0° C.) solution of 0.293 g of 6,11-dihydro-5H-dibenz[b,e]azepine and 625 μL triethylamine in 3.5 ml of dichloromethane is added a solution of 0.657 g of 6-[([1,1'-biphenyl]-2-ylcarbonyl)amino]-3-pyridinecarbonyl chloride in 1.5 ml of dichloromethane. The mixture is stirred under argon at room temperature for 16 hours and diluted with 40 ml of dichloromethane and 20 ml of water. The organic layer is separated and washed with 20 ml each of 1M NaHCO3, brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the filtrate concentrated to dryness under vacuum. The residual solid is chromatographed on silica gel with ethyl acetate-hexane(1:1) as solvent to give the product as a glass. Crystallization from ethyl acetate gives 0.395 g of white crystals, m.p. 134°-142° C.

reactant | 6,11-dihydro-5H-dibenz[b,e]azepine | 0.293 g | C1=CC=CC=2NCC3=C(CC21)C=CC=C3 | C14H13N
reactant | triethylamine | 625 μL | C(C)N(CC)CC | C6H15N
reactant | 6-[([1,1'-biphenyl]-2-ylcarbonyl)amino]-3-pyridinecarbonyl chloride | 0.657 g | C1(=C(C=CC=C1)C(=O)NC1=CC=C(C=N1)C(=O)Cl)C1=CC=CC=C1 | C19H13ClN2O2
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | N-[5-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]-2-pyridinyl][1,1'-biphenyl]-2-carboxamide | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C=3C=CC(=NC3)NC(=O)C=3C(=CC=CC3)C3=CC=CC=C3 | C33H25N3O2
